US07732461B2
(m) 4-{[cis-3-(aminomethyl)-4-hydroxy-1-piperidinyl]methyl}-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one
A suspension of 1,1-dimethylethyl({(cis-1-[(3-fluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-hydroxy-3-piperidinyl}methyl)carbamate (0.175 g, 0.405 mmol) in dichloromethane (2 ml) was treated with trifluoroacetic acid (1 ml) and stirred at room temperature for 20 min. The reaction mixture was evaporated and then redissolved using a 4:1 dichloromethane:methanol solution. The organic phase was then treated with aqueous sodium bicarbonate solution. The aqueous phase was extracted 10 times with a 4:1 dichloromethane:methanol solution and then the combined organic phases were dried and the solvent was removed under reduced pressure and the residue was subjected to column chromatography on silica gel using a dichloromethane, methanol and ammonia gradient to provide the desired compound (0.08 g).

reactant | {(cis-1-[(3-fluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-hydroxy-3-piperidinyl}methyl)carbamate | 0.405 mmol, 0.175 g | FC=1C=NC=2C=CC(N3C2C1C(C3)CN3C[C@H]([C@H](CC3)O)CNC([O-])=O)=O
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-{[cis-3-(aminomethyl)-4-hydroxy-1-piperidinyl]methyl}-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 0.08 g | NC[C@@H]1CN(CC[C@@H]1O)CC1CN2C=3C1=C(C=NC3C=CC2=O)F | C17H21FN4O2
